US07897607B2
1-(Dipropylamino)-3-ethyl-6-mesityl-4H-quinolizin-4-one
1-(Dipropylamino)-6-mesityl-3-vinyl-4H-quinolizine-4-one (9.4 mg, 0.024 mmol) was dissolved in methanol (1 mL) 10 mg of 10% Pd/C was added. The solution was evacuated and filled with a hydrogen balloon at room temperature. After 1 h, the solution was filtered and concentrated. Flash chromatography (5% ethyl acetate/hexanes) gave 9.4 mg (100% yield) of the title compound.

reactant | 1-(Dipropylamino)-6-mesityl-3-vinyl-4H-quinolizine-4-one | 0.024 mmol, 9.4 mg | C(CC)N(C=1C=C(C(N2C(=CC=CC12)C1=C(C=C(C=C1C)C)C)=O)C=C)CCC | C26H32N2O
solvent | methanol | 1 mL, 10 mg | CO | CH4O
solvent | Pd/C | [Pd] | Pd
product | 1-(Dipropylamino)-3-ethyl-6-mesityl-4H-quinolizin-4-one | 9.4 mg, 100% yield | C(CC)N(C=1C=C(C(N2C(=CC=CC12)C1=C(C=C(C=C1C)C)C)=O)CC)CCC | C26H34N2O
